US04517119
(c) L-Leucyl-Nε -tert-butyloxycarbonyl-L-lysine
A solution of Z-Leu-Lys(Boc)-OH 41.5 g, 0.084 mol) in methanol (210 mL) was hydrogenated in a Vibromixer apparatus using 10% Pd/C (5.0 g) for 3.5 h. The precipitated product dissolved on addition of H2O (120 mL). The catalyst was removed by filtration (celite); washed twice with H2O and the combined filtrate evaporated to near dryness. The residue was reevaporated from MeOH (2×) and Et2O (2×). The solid product was collected, washed with Et2O and dried to afford 26.9 g of white solid. Recrystallization from warm iPrOH (420 ml) and MeOH (350 mL) afforded, after drying, 24.6 g of white crystalline product (81.5%); mp 142°-143°; Rf 0.63 (n-BuOH:AcOH:EtOAc:H2O; 1-1-1-1); [α]D25 +20.76° (c 1, MeOH). Anal: calcd. for C17H33N3O5 (359.47): C, 56.80; H, 9.25; N, 11.69. Found: C, 56.72; H, 9.55; N, 11.57.

reactant | Z-Leu-Lys(Boc)-OH | 0.084 mol, 41.5 g | N([C@@H](CC(C)C)C(=O)N[C@@H](CCCCNC(=O)OC(C)(C)C)C(=O)O)C(=O)OCC1=CC=CC=C1 | C25H39N3O7
reactant | H2O | 120 mL | O | H2O
solvent | methanol | 210 mL | CO | CH4O
catalyst | Pd/C | 5.0 g | [Pd] | Pd
product | L-Leucyl-Nε -tert-butyloxycarbonyl-L-lysine | 26.9 g | N[C@@H](CC(C)C)C(=O)N[C@@H](CCCCNC(=O)OC(C)(C)C)C(=O)O | C17H33N3O5
